Retificador de onda completa
V1 1 0 SIN 0 100e-3 5 0 0.2 0 5
R1 1 2 2000
R2 1 5 2000
R3 2 4 2000
R4 4 5 1000
R5 5 6 2000
RL 6 0 1000
D1 4 3 1E-9 4.3429445E-2
D2 3 2 1E-9 4.3429445E-2
O1 3 0 0 2
O2 6 0 0 5
.TRAN 1 1e-4 BE 1 UCI