22
R0102 1 2 2
L0302 3 2 1E-1
L0403 4 3 1E-1
L0504 5 4 1E-1
L0605 6 5 1E-1
L0706 7 6 1E-1
L0807 8 7 1E-1
L0908 9 8 1E-1
L1009 10 9 1E-1
L1110 11 10 1E-1
L1211 12 11 1E-1
L1300 13 0 1E-1
L1413 14 13 1E-1
L1514 15 14 1E-1
L1615 16 15 1E-1
L1716 17 16 1E-1
L1817 18 17 1E-1
L1918 19 18 1E-1
L2019 20 19 1E-1
L2120 21 20 1E-1
L0121 1 21 1E-1
C0300 3 0 1E-1 IC=1
C0400 4 0 1E-1 IC=1
C0500 5 0 1E-1 IC=1
C0600 6 0 1E-1 IC=1
C0700 7 0 1E-1 IC=1
C0800 8 0 1E-1 IC=1
C0900 9 0 1E-1 IC=1
C1000 10 0 1E-1 IC=1
C1100 11 0 1E-1 IC=1
C1200 12 0 1E-1 IC=1
C1300 13 0 1E-1 IC=1
C1400 14 0 1E-1 IC=1
C1500 15 0 1E-1 IC=1
C1600 16 0 1E-1 IC=1
C1700 17 0 1E-1 IC=1
C1800 18 0 1E-1 IC=1
C1900 19 0 1E-1 IC=1
C2000 20 0 1E-1 IC=1
C2100 21 0 1E-1 IC=1
C0100 1 0 1E-1 IC=1
E2200 22 0 2 1 1
.TRAN 10 1E-3 BE 1 UIC
